US07348342B2
Step 1: Preparation of 5-(4-methylsulfanylphenyl)-1-phenyl-3-trifluoromethyl-1H-pyrazole
A solution of 4,4,4-trifluoro-(4-methylsulfanylphenyl)-butane-1,3-dione (3.0 g) and phenyl hydrazine hydrochloride (1.18 g) in ethanol (20 mL) was refluxed for 7 h. The solvent was evaporated and the residue was chromatographed over silicagel using 20% ethyl acetate in petroleum ether as eluent yielding 2.25 g (% yield=83, Mol. Weight=334) of product as a gum.

reactant | 4,4,4-trifluoro-(4-methylsulfanylphenyl)-butane-1,3-dione | 3.0 g | FC(C(CC(=O)C1=CC=C(C=C1)SC)=O)(F)F | C11H9F3O2S
reactant | phenyl hydrazine hydrochloride | 1.18 g | Cl.C1(=CC=CC=C1)NN
solvent | ethanol | 20 mL | C(C)O | C2H6O
product | 5-(4-methylsulfanylphenyl)-1-phenyl-3-trifluoromethyl-1H-pyrazole | CSC1=CC=C(C=C1)C1=CC(=NN1C1=CC=CC=C1)C(F)(F)F | C17H13F3N2S
